Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
 “Over the past month or so my depression has become acute.”
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ with history of mood disorder, who lives at home with his 
parents and is employed as an ___ assistant.  Patient 
is known to me from last admission in ___.  He reports 
that since having ECT during that admission, he then continued 
with outpatient treatments into approximately ___.  He felt 
well at that time, and was able to return to work in ___.  Over 
the ___, his mood began to decline, and he says that it has 
been “acutely worse” in the past one month.  He used cocaine 
“once” about two weeks ago, otherwise denies alcohol or illicit 
drug use, reports he has been compliant with medications, and 
has been seeing his psychiatrist.  Recent med changes have been 
an increase in his abilify.  He says he has not been going to 
therapy.  Another stressor has been his performance at work.  
Patient reports that he has low mood, altered sleep with 
fatigue and sleeping during the day, “very low” energy, poor 
concentration, and intermittent suicidal ideation.  He says 
“that plagues me from time to time… life feels like too much of 
a struggle, and I ___ have much self-worth.”  He says however, 
“I ___ have a plan to do that now, and I ___ plan on 
progressing to do that again.”  He denies HI.  He denies AH, VH, 
IOR, PI.  He denies manic symptoms in at least the past one 
year.  He reports anxiety intermittently, but not generalized, 
with identifiable triggers, and lasting about one day.  He 
reports “social anxiety” which he describes as feeling anxious 
in front of a group of people, no other anxiety about social 
events, and had good social network in the past, wants this 
again.

 
Past Medical History:
Past Psychiatric History:  Carries a diagnosis of bipolar 
disorder, and describes past episodes of “racing thoughts, 
sleeplessness, increased energy,” not during intoxication.  He 
has been mostly in the depressed phase over the past few years.  
He has four prior hospitalizations, last in ___.  He 
reports two suicide attempts in the past, both by overdose, and 
the last was about ___ years ago.  He denies history of trauma.  
His psychiatrist is Dr. ___ at ___.  He has tried 
wellbutrin, depakote, and zyprexa in the past, cannot recall any 
other medications.  

Medical History:
HTN
Psoriasis

 
Social History:
___
Family History:
Sister with depression and suicide attempt.
 
Physical Exam:
MSE at time of admission:
APPEARANCE & FACIAL EXPRESSION: ___ yo man appearing his stated 
age, cooperative, unshaven but not malodorous
POSTURE: seated on hospital stretcher, in a hospital gown 
BEHAVIOR: none noted
ATTITUDE: cooperative
SPEECH: slowed, soft
MOOD: "depressed"
AFFECT: constricted
THOUGHT FORM: goal directed
THOUGHT CONTENT: feels like he is "a failure at everything"
ABNORMAL PERCEPTIONS: denies hallucinations
NEUROVEGETATIVE SYMPTOMS: poor sleep, low energy and motivation, 
adequate appetite, guilt around not doing "a good job at work"
SUICIDALITY/HOMICIDALITY: suicidal ideation with plan to 
overdose
INSIGHT AND JUDGMENT: adequate

COGNITIVE ASSESSMENT:
SENSORIUM: alert
ORIENTATION: oriented to self, ___, ___
ATTENTION: months of year backward correctly; verbal trails B 
correct to 10 places
MEMORY: ___ obj immed, ___ at 5"
CALCULATIONS: intact
FUND OF KNOWLEDGE: above average
PROVERB INTERPRETATION:not tested
SIMILARITIES/ANALOGIES: not tested

PHYSICAL EXAM ON ADMISSION: unremarkable

 
Pertinent Results:
___ 01:25PM URINE  HOURS-RANDOM
___:25PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-POS amphetmn-NEG mthdone-NEG
___ 01:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 01:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-5.0 
LEUK-NEG
___ 01:00PM   GLUCOSE-115* UREA N-11 CREAT-0.9 SODIUM-140 
POTASSIUM-3.6 CHLORIDE-104 TOTAL CO2-29 ANION GAP-11
___ 01:00PM   estGFR-Using this
___ 01:00PM   ALT(SGPT)-55* AST(SGOT)-33 ALK PHOS-72 TOT 
BILI-0.4
___ 01:00PM   ALBUMIN-4.4 CALCIUM-9.4 PHOSPHATE-3.3 
MAGNESIUM-2.1
___ 01:00PM   VIT B12-336 FOLATE-8.7
___ 01:00PM   TSH-1.3
___ 01:00PM   FREE T4-1.1
___ 01:00PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 01:00PM   WBC-11.2* RBC-4.80 HGB-15.3 HCT-42.3 MCV-88# 
MCH-31.8 MCHC-36.1* RDW-13.0
___ 01:00PM   NEUTS-74.5* ___ MONOS-3.7 EOS-1.7 
BASOS-0.8
___ 01:00PM   PLT COUNT-304
 
Brief Hospital Course:
Pt was admitted to the inpatient psychiatric unit voluntarily 
for evaluation and treatment of depression.  Hospital course by 
problem is as follows:

1.  Psychiatric-
Pt was endorsing significant symptoms of depression as per the 
HPI and was having intermittent thoughts of 
hopelessness/suicide.  He was very interested in pursuing ECT 
during this admission, as he has found it very useful for him in 
the past.  This was discussed with the patient and Dr. 
___ had done ECT with Mr. ___ in the past) and 
they agreed that it would be useful to do a trial of ECT during 
this admission.  He was evaluated by medicine and anesthesia and 
no contraindications to ECT or concerns were uncovered.  He 
began ECT on ___.  After the first treatment he had 
some prolonged recovery time (remained somewhat cognitively 
slowed for a couple of hours after the treatment), but did 
recover fully later that evening.  He had 2 more treatments 
while inpatient on ___ and ___ with normal recovery after 
the procedure.  He felt that the first few treatments were 
helping him with his mood and energy level, and wanted to 
continue with ECT on an outpatient basis.  This was discussed 
with Dr. ___ was planning to continue ECT on a 
___ schedule with a longer term plan of 
transitioning to outpatient ECT at ___ which is 
closer to where the patient and his family live in ___.  
Before he was discharged, it was confirmed with his family 
(mother and brother) that they were agreeable to driving him 
back to ___ three times weekly for ECT over the coming weeks.  
He was continued on his outpatient medication regimen of Effexor 
XR and Abilify without any changes.  Dr. ___ 
psychiatrist) was aware of this hospitalization and agreed with 
the plan to continue his usual meds with this ECT trial.  At the 
time of discharge, Mr. ___ was not experiencing any thoughts 
of self-harm or suicide.  

2.  Medical-
There were no acute medical issues during this hospitalization.  
As above, pt was evaluated by medicine and anesthesia prior to 
beginning ECT.

3.  Legal-
Pt was voluntary throughout admission.

4.  Social/dispo-
Pt's family was contacted by social work during this admission 
and were in agreement with the above plan.  At time of 
discharge, pt was planning to continue seeing his usual 
outpatient psychiatrist Dr. ___ and worked with 
social work to set up an appointment with a new therapist.  He 
will be returning to BI 3x/week for ECT.
 
Medications on Admission:
abilify 10mg qhs
clonazepam 0.5mg TID prn
lisinopril 5mg qd
effexor XR 300mg qhs
ambien 10mg qhs

 
Discharge Medications:
1. Clonazepam 0.5 mg Tablet Sig: One (1) Tablet PO TID (3 times 
a day) as needed for anxiety.
Disp:*30 Tablet(s)* Refills:*0*
2. Venlafaxine 75 mg Capsule, Sust. Release 24 hr Sig: Four (4) 
Capsule, Sust. Release 24 hr PO QHS (once a day (at bedtime)).
Disp:*60 Capsule, Sust. Release 24 hr(s)* Refills:*0*
3. Aripiprazole 10 mg Tablet Sig: Two (2) Tablet PO QHS (once a 
day (at bedtime)).
Disp:*30 Tablet(s)* Refills:*0*
4. Trazodone 100 mg Tablet Sig: One (1) Tablet PO HS (at 
bedtime) as needed for insomnia.
Disp:*15 Tablet(s)* Refills:*0*
5. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*15 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I:   Major Depressive episode, recurrent
Axis II:  none
Axis III:  borderline hypertension
Axis IV:  on leave from work, dependent on family for housing
Axis V:  GAF 50

 
Discharge Condition:
Discharged home in improved and stable condition.  Not 
experiencing any thoughts of self-harm or suicide.  Subjective 
improvement in mood.

Mental Status Exam:
Appearance:Fair grooming today.  Good eye contact.  No 
psychomotor abnormalities.
Speech:Fluent, normal r/r/v.
Mood:“Good.”
Affect:  More related today, thoughtful, still somewhat 
constricted and dysphoric.
Thought Process:Linear 
Thought Content:Denies SI.  Future oriented.  No unusual 
content.  
Abnormal Perceptions:Denies

 
Discharge Instructions:
*Please continue taking medications as prescribed.
*Please keep the follow-up appointments that have been made for 
you.
*It is very important that you continue ECT with Dr. 
___ as directed (as of now, every 
___
*If you feel unsafe, or have any thoughts of suicide or 
self-harm, you should seek help right away from your outpatient 
providers, or by coming to the emergency room, or by calling 
911.
 
Followup Instructions:
___